US05091377
1-[Bis(4-fluorophenyl)methylsilylmethyl]-1,2,4-Triazole
In this preparation 1.0 g of sodium 1,2,4-triazole is added to a solution of 3.1 g of bis(4-fluorophenyl)methylsilylmethyl chloride in 15 mL of dimethylformamide. The mixture is heated at about 80°-90° C. for two hours and then cooled to room temperature. The mixture is then diluted with 60 ml of water and extracted three times with 50 ml portions of ethyl ether. The extracts are combined, washed twice with 80 ml of water, then with 80 ml of aqueous saturated sodium chloride solution and dried over magnesium sulfate. The ethyl ether solvent is evaporated off affording an oil which is then purified by chromatography over silica gel solution with ethyl acetate, hexane, and mixture thereof.

reactant | sodium 1,2,4-triazole | 1.0 g | N1N=CN=C1.[Na]
reactant | bis(4-fluorophenyl)methylsilylmethyl chloride | 3.1 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)[SiH2]CCl | C14H13ClF2Si
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | 1-[Bis(4-fluorophenyl)methylsilylmethyl]-1,2,4-Triazole | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)[SiH2]CN1N=CN=C1 | C16H15F2N3Si
